US05008439
To a solution of methyl 2-(4-acetylphenoxy)propanoate (5.6g, 25.0 mmol) in acetic acid (25 mL) is added peracetic acid (35%, 6.5g, 30.0 mmol) dropwise over 30 minutes at 25° C. The reaction is refluxed at 70° C. for 5 hours to give an orange-brown liquid. Acetic acid and residual peracetic acid are removed by high vacuum. The solution is kugelrohr distilled to give a light brown-orange product which contains methyl 2-(4-acetoxyphenoxy)propanoate (conversion 93%, selectivity 76%, yield 71%) and methyl 2-(4-hydroxyphenoxy)propanoate.

reactant | methyl 2-(4-acetylphenoxy)propanoate | 25.0 mmol, 5.6g | C(C)(=O)C1=CC=C(OC(C(=O)OC)C)C=C1 | C12H14O4
reactant | peracetic acid | 30.0 mmol, 6.5g | C(C)(=O)OO | C2H4O3
reactant | methyl 2-(4-hydroxyphenoxy)propanoate | OC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H12O4
solvent | acetic acid | 25 mL | C(C)(=O)O | C2H4O2
product | methyl 2-(4-acetoxyphenoxy)propanoate | yield 71% | C(C)(=O)OC1=CC=C(OC(C(=O)OC)C)C=C1 | C12H14O5
